* \\wsl.localhost\Ubuntu-22.04\home\miqueasgamero\my_files\transresistance_amplifier\Amplificacor_rta_freq.asc
V1 Vcc 0 12
V2 0 Vee 12
C1 N001 0 50p
R1 N002 N001 10Meg
Lx N002 out_LASC 1T
Cx x_SC N002 1T
V3 x_SC 0 AC 1
XU2 0 N001 Vcc Vee out_LASC OPAx209
C2 in 0 50p
R2 out_LCSC in 10Meg
XU1 0 in Vcc Vee out_LCSC OPAx209
I1 0 in AC 100n
C3 N003 0 50p
R3 N004 N003 100k
Lx1 N005 out_LAC 1T
Cx1 x_C N005 1T
V4 x_C 0 AC 1
XU3 0 N003 Vcc Vee out_LAC OPAx209
C4 in 0 50p
R4 out_LCC in 10Meg
XU4 0 in Vcc Vee out_LCC OPAx209
I2 0 in AC 100n
R5 N005 N004 12k
R6 N004 0 120
.ac dec 100 0.1 100G uic
.lib OPAx209.lib
* Ganancia lazo abierto
* (sin compensar)
* (sin compensar)
* Ganancia lazo cerrado
* Directivas
* Fuente
* Ganancia lazo abierto
* (compensado)
* (compensado)
* Ganancia lazo cerrado
.lib C:\Program Files\LTC\LTspiceXVII\lib\sub\TL081.sp
.backanno
.end
