* C:\Users\vaale\OneDrive\Escritorio\UNIVERSIDAD\2023\ADCA II\Proyecto\transresistance_amplifier\Draft1.asc
XU1 0 N001 +Vcc -Vcc Vout TL081
V1 +Vcc 0 10
V2 0 -Vcc 10
V3 Vin 0 SINE(0 0.5 1K)
R1 Vout N001 1k
R2 N001 Vin 1k
.tran 1m
.lib C:\Users\vaale\Downloads\TL081 (1).sp
.backanno
.end
