* C:\Users\vaale\OneDrive\Escritorio\UNIVERSIDAD\2023\ADCA II\Proyecto\transresistance_amplifier\Reguladores_78_79.asc
XU1 N001 0 Vout 7812
V1 N001 0 14
XU2 N002 0 Vout_2 LM7912
V2 N002 0 -14
.tran 10m
.lib C:\Users\vaale\OneDrive\Escritorio\UNIVERSIDAD\2023\ADCA II\Proyecto\transresistance_amplifier\models\regulators.lib
.backanno
.end
