* C:\Users\vaale\OneDrive\Escritorio\UNIVERSIDAD\2023\ADCA II\Proyecto\transresistance_amplifier\Reguladores_78_79_RF.asc
XU1 N002 0 Vout 7812
V1 N001 0 14 AC 1
R1 N002 N001 10k
C1 N002 0 1.59n
XU2 N004 0 Vout_2 LM7912
V2 N003 0 14 AC 1
R2 N004 N003 10k
C2 N004 0 1.59n
* .tran 5m
.ac dec 100 1 1G
* Respuesta en Frecuencia de los reguladores
* 7812 (Regulador +)
* LM7912 (Regulador -)
.lib C:\Users\vaale\OneDrive\Escritorio\UNIVERSIDAD\2023\ADCA II\Proyecto\transresistance_amplifier\models\regulators.lib
.backanno
.end
