* \\wsl.localhost\Ubuntu-22.04\home\miqueasgamero\my_files\transresistance_amplifier\amplifier_new.asc
XU1 N002 N003 V+ V- Vo TL081
V1 N001 0 PULSE(0 5 0 1p 1p 9m 10m)
R1 N002 N001 {R}
R2 0 N003 10k
R3 N003 Vo 10k
R4 N002 Vo {R}
Vf1 V+ 0 12
Vf2 0 V- 12
XU2 0 N002 V+ V- N007 TL081
R5 N007 N002 10k
C1 N002 0 10n
R6 N008 N007 10K
XU3 0 N008 V+ V- out1 TL081
R7 out1 N008 10K
XU4 N005 N006 V+ V- Vo TL081
V2 N004 0 PULSE(0 5 0 1p 1p 9m 10m)
R8 N005 N004 10Meg
R9 0 N006 10k
R10 N006 Vo 10k
R11 N005 Vo 10Meg
XU5 0 N005 V+ V- N009 TL081
R12 N009 N005 10Meg
R13 N010 N009 10K
XU6 0 N010 V+ V- out2 TL081
R14 out2 N010 10k
Cf N007 NC_01 1n
.tran 10m
.PARAM R=10K
* Prueba de conecpto #1
* Prueba de concepto #2
.lib C:\Program Files\LTC\LTspiceXVII\lib\sub\TL081.sp
.backanno
.end
